US04301152
Step B: 2,3,4-Tri-O-acetyl-6-deoxy-6-phthalimido-α-D-galactopyranosyl bromide
A solution of 1,2,3,4-tetra-O-acetyl-6-deoxy-phthalimido-D-galactopyranose (4.2 g.) in dichloromethane (2 ml.) is treated with 30-32% hydrobromic acid in glacial acetic acid (10 ml.) for 1 hour. The reaction mixture is poured into ice-water, and the product is immediately extracted with dichloromethane. The organic layer is washed with cold aqueous sodium hydrogencarbonate and cold water, dried, and evaporated in vacuo to give the title compound as a syrup (4.0 g., 91%); n.m.r. (chloroform-d); δ 6.63 (d, J1,2 4.0 Hz, H-1), 7.58-7.90 (4 aromatic), 1.96, 2.07, and 2.13 (3 OAc).

reactant | 1,2,3,4-tetra-O-acetyl-6-deoxy-phthalimido-D-galactopyranose | 4.2 g | C(C)(=O)OC1([C@H](OC(C)=O)[C@@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](O1)C)N1C(C=2C(C1=O)=CC=CC2)=O | C22H23NO11
reactant | hydrobromic acid | Br | BrH
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 2,3,4-Tri-O-acetyl-6-deoxy-6-phthalimido-α-D-galactopyranosyl bromide | 4.0 g, 91% | C(C)(=O)O[C@H]1[C@H](O[C@@H]([C@@H]([C@@H]1OC(C)=O)OC(C)=O)CN1C(C=2C(C1=O)=CC=CC2)=O)Br | C20H20BrNO9
